US06395734B1
3-[5-(6-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid
4-(2-carboxyethyl)-2-formyl-3-methylpyrrole (90 mg), 106 mg 6-bromo-2-oxindole, and 3 drops piperidine in 3 mL of ethanol were heated at 90° C. for 4 hours. The reaction mixture was cooled and concentrated. The residue was suspended in 6 N aqueous hydrochloric acid. The precipitate was filtered, washed with water to pH 6 and dried in a vacuum oven overnight to give 172 mg (92%) of the title compound as a yellow solid.

reactant | 4-(2-carboxyethyl)-2-formyl-3-methylpyrrole | 90 mg | C(=O)(O)CCC=1C(=C(NC1)C=O)C | C9H11NO3
reactant | 6-bromo-2-oxindole | 106 mg | BrC1=CC=C2CC(NC2=C1)=O | C8H6BrNO
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-[5-(6-Bromo-2-oxo-1,2-dihydroindol-3-ylidenemethyl)-4-methyl-1H-pyrrol-3-yl]-propionic acid | 172 mg, 92% | BrC1=CC=C2C(C(NC2=C1)=O)=CC1=C(C(=CN1)CCC(=O)O)C | C17H15BrN2O3
